US07994336B2
a) Synthesis of 3-chloro-2-oxo-3-m-tolyl-propionic acid methylester
This compound was synthesised as 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methylester but using 3-methylbenzaldehyde instead 4-fluorobenzaldehyde.

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methylester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | 3-methylbenzaldehyde | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-chloro-2-oxo-3-m-tolyl-propionic acid methylester | COC(C(C(C=1C=C(C=CC1)C)Cl)=O)=O | C11H11ClO3
